US07163936B2
To a solution of ethyl (3S)-3-{[(allyloxy)carbonyl]amino}-4-{[tert-butyl(dimethyl)silyl]oxy}butanoate (1.25 g, 3.6 mmol) and ethyl acrylate (0.39 ml, 3.6 mmol) in toluene (10 ml) was added at 40° C. sodium hydride (60% suspension in oil, 145 mg, 3.6 mmol). The mixture was stirred at 60° C. for 1 hour and then poured into diluted hydrochloric acid. The solution was extracted three times with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was removed in vacuo. The residue was dissolved in methanol(25 ml) and to the solution were added acetic acid (0.25 ml, 4.4 mmol) and sodium cyanoborohydride (0.27 g, 4.3 mmol). The mixture was stirred at room temperature for 30 minutes. The solvent was removed in vacuo and the residue was purified with silica gel chromatography to give 1-allyl 3-ethyl (6S)-6-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-hydroxy-1,3-piperidinedicarboxylate (0.48 g, 33%).

reactant | ethyl (3S)-3-{[(allyloxy)carbonyl]amino}-4-{[tert-butyl(dimethyl)silyl]oxy}butanoate | 3.6 mmol, 1.25 g | C(C=C)OC(=O)N[C@@H](CC(=O)OCC)CO[Si](C)(C)C(C)(C)C | C16H31NO5Si
reactant | ethyl acrylate | 3.6 mmol, 0.39 ml | C(C=C)(=O)OCC | C5H8O2
reactant | sodium hydride | 3.6 mmol, 145 mg | [H-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | acetic acid | 4.4 mmol, 0.25 ml | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 4.3 mmol, 0.27 g | C(#N)[BH3-].[Na+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 1-allyl 3-ethyl (6S)-6-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-hydroxy-1,3-piperidinedicarboxylate | 0.48 g, 33% | [Si](C)(C)(C(C)(C)C)OC[C@@H]1CC(C(CN1C(=O)OCC=C)C(=O)OCC)O | C19H35NO6Si
